US08486967B2
a) [1-(2-Methyl-pyrimidin-4-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester
A suspension of Boc-4-aminopiperidine (715.3 mg, 3.5 mmol), 4-chloro-2-methylpyrimidine (521 mg, 3.85 mmol) and N,N-diisopropylethyl amine (899 L, 5.25 mmol) in dioxane (14 mL) was heated to 150° C. in the microwave for 30 minutes. The reaction was diluted with water and extracted twice with ethyl acetate. The combined organic layers were washed with water, dried over sodium sulfate, filtered and concentrated under reduced pressure. The title compound was obtained after stirring of the crude product with diethyl ether and drying as white crystals (649.5 mg, 64%).

reactant | Boc-4-aminopiperidine | 3.5 mmol, 715.3 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)N | C10H20N2O2
reactant | 4-chloro-2-methylpyrimidine | 3.85 mmol, 521 mg | ClC1=NC(=NC=C1)C | C5H5ClN2
reactant | N,N-diisopropylethyl amine | 5.25 mmol, 899 L | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | 14 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | [1-(2-Methyl-pyrimidin-4-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCN(CC1)C1=NC(=NC=C1)C)=O | C15H24N4O2
